US06284764B1
A cold (−78 ° C.), stirred solution of (trimethylsilyl)acetylene (4.42 g, 45.0 mmol) In anhydrous THF (20 mL) was treated with nBuLi (18 mL, 45.0 mmol) under nitrogen. The colorless solution was stirred for 30 minutes and followed by the addition of 2(tert-butoxycarbonylamino)-2-methyl propionaldehyde (2.80 g, 15 mmol) in anhydrous THF (20 mL). The reaction was warmed up to room temperature, stirred for 2 hours, and quenched with water. After removal of THF, tne residue was partitioned between ether (150 mL) and water (100 mL). The separated organic layer was washed with brine (100 mL), dried over sodium sulfate, and concentrated to give the crude 4,4-Dimethyl-5-trimethylsilylethynyl-2-oxazolidinone (100%) as yellow oil which was carried to the next step.

reactant | (trimethylsilyl)acetylene | 45.0 mmol, 4.42 g | C[Si](C)(C)C#C | C5H10Si
reactant | nBuLi | 45.0 mmol, 18 mL | [Li]CCCC
reactant | 2(tert-butoxycarbonylamino)-2-methyl propionaldehyde | 15 mmol, 2.80 g | C(C)(C)(C)OC(=O)NC(C=O)(C)C | C9H17NO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4,4-Dimethyl-5-trimethylsilylethynyl-2-oxazolidinone | 100% | CC1(NC(OC1C#C[Si](C)(C)C)=O)C | C10H17NO2Si
